US06222062B1
3-Oxo-5-(2,6,6-trimethyl-cyclohex-2-enyl)-pentanoic acid
A mixture of 25.2 g 3-oxo-5-(2,6,6-trimethyl-cyclohex-2-enyl)-pentanoic acid methyl ester and 4.3 g ethylene glycol was slowly heated to 180° C. while distilling off methanol. On completion, the reaction mixture was chromatographed over silica gel to yield a colourless liquid.

reactant | 3-oxo-5-(2,6,6-trimethyl-cyclohex-2-enyl)-pentanoic acid methyl ester | 25.2 g | COC(CC(CCC1C(=CCCC1(C)C)C)=O)=O | C15H24O3
solvent | ethylene glycol | 4.3 g | C(CO)O | C2H6O2
product | 3-Oxo-5-(2,6,6-trimethyl-cyclohex-2-enyl)-pentanoic acid | O=C(CC(=O)O)CCC1C(=CCCC1(C)C)C | C14H22O3
